US07482341B2
3,4,5,6-Tetrahydro-2H-[1,3′]bipyridinyl-6′-ylamine (0.19 g) and 3-chloro-2-methylbenzenesulfonyl chloride (0.24 g) were dissolved in pyridine (4 mL) and heated at 50° C. over night. The mixture was concentrated in vacuo, taken up in ethyl acetate and extracted with 1M Cu(II)SO4 solution. The organic layer was washed once again with Cu(II)SO4 solution, dried over Na2SO4 and evaporated in vacuo. The product was purified by flash chromatography on silica gel (gradient of ethyl acetate in heptane) to give 3-chloro-2-methyl-N-(3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-yl)-benzenesulfonamide (0.1 g) as a light brown foam. MS (ESI−): 364.0 ([M−H]−).

reactant | 3,4,5,6-Tetrahydro-2H-[1,3′]bipyridinyl-6′-ylamine | 0.19 g | N1(CCCCC1)C=1C=NC(=CC1)N | C10H15N3
reactant | 3-chloro-2-methylbenzenesulfonyl chloride | 0.24 g | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | 3-chloro-2-methyl-N-(3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-yl)-benzenesulfonamide | 0.1 g | ClC=1C(=C(C=CC1)S(=O)(=O)NC1=CC=C(C=N1)N1CCCCC1)C | C17H20ClN3O2S
